US08669234B2
A solution of lithium hydroxide monohydrate (16.8 mg, 0.38 mmol) in water (0.5 mL) was added to a solution of 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 6-ethyl ester 2-methyl ester (86 mg, 0.32 mmol) in methanol (1 mL) and tetrahydrofuran (1 mL). After 2 hours, an aqueous solution of hydrogen chloride (1N, 0.41 mL, 0.41 mmol) was added and the organic solvents were removed under reduced pressure. The resulting aqueous solution was lyophilized for 16 hours to give 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 2-methyl ester. A yield of 100% was assumed for the subsequent step. C10H14N2O5 calculated 242.1, observed [M+1]+242.9, [M+1]− 241.1; rt=1.54 min.

reactant | lithium hydroxide monohydrate | 0.38 mmol, 16.8 mg | O.[OH-].[Li+]
reactant | 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 6-ethyl ester 2-methyl ester | 0.32 mmol, 86 mg | COC(=O)N1CC2N(C(C1)=O)C(CC2)C(=O)OCC | C12H18N2O5
reactant | hydrogen chloride | 0.41 mmol, 1N, 0.41 mL | Cl | ClH
solvent | water | 0.5 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 2-methyl ester | yield of 100% | COC(=O)N1CC2N(C(C1)=O)C(CC2)C(=O)O | C10H14N2O5
